US04758582
A solution of 98 g (0.67 mole) of 1-chloro-3,3-dimethyl-pent-4-in-2-one is added dropwise, with stirring, to a boiling mixture of 86.1 g (0.67 mole) of 4-chlorophenol and 92.5 g (0.67 mole) of potassium carbonate powder in 500 ml of acetone. After five hours the mixture is filtered, the filtrate is evaporated, the residue is taken up in 250 ml of methylene chloride and this solution is washed with 200 ml of 1N sodium hydroxide solution and 200 ml of water. After the solvent has been distilled off, 149 g (that is to say 94% of theory) of 1-(4-chlorophenoxy)-3,3-dimethyl-pent-4-in-2-one are obtained as a colorless viscous oil, which upon standing solidifies to crystals.

reactant | 1-chloro-3,3-dimethyl-pent-4-in-2-one | 0.67 mole, 98 g | ClCC(C(C#C)(C)C)=O | C7H9ClO
reactant | 4-chlorophenol | 0.67 mole, 86.1 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 0.67 mole, 92.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 1-(4-chlorophenoxy)-3,3-dimethyl-pent-4-in-2-one | 149 g, 94% | ClC1=CC=C(OCC(C(C#C)(C)C)=O)C=C1 | C13H13ClO2
